US08975254B2
d) Pyridine-2-carboxylic acid [2-(5-bromofuran-2-yl)-2-phenylsulfanylethyl]amide
2-(5-Bromofuran-2-yl)-2-phenylsulfanylethylamine (0.28 g, 0.0009389 mol), 2-pyridinecarboxylic acid (0.12 g, 0.001005 mol) and EDCI were stirred in dry THF (10 ml). After disappearing of the starting material the solvent was evaporated. Then chloroform was added and the solution was washed with 1 M Na2CO3 and water, dried with Na2SO4 and evaporated. The crude product was purified by flash chromatography using heptane-EtOAc as a gradient eluent (85:15-70:30). 1H NMR (400 MHz, DMSO-d6): 3.75-3.80 (2H, m), 4.78-4.84 (1H, m), 6.33-6.37 (2H, m), 6.44 (1H, d), 7.26-7.40 (4H, m), 7.59-7.62 (1H, m), 7.97-8.04 (2H, m), 8.62-8.64 (1H, m), 9.08 (1H, m).

reactant | 2-(5-Bromofuran-2-yl)-2-phenylsulfanylethylamine | 0.0009389 mol, 0.28 g | BrC1=CC=C(O1)C(CN)SC1=CC=CC=C1 | C12H12BrNOS
reactant | 2-pyridinecarboxylic acid | 0.001005 mol, 0.12 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | EDCI | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Pyridine-2-carboxylic acid [2-(5-bromofuran-2-yl)-2-phenylsulfanylethyl]amide | BrC1=CC=C(O1)C(CNC(=O)C1=NC=CC=C1)SC1=CC=CC=C1 | C18H15BrN2O2S
